US05118599
5-ACETYL-5-METHYL-2-(4-NITROPHENYL)-1,3-DIOXANE
3,3-bis(Hydroxymethyl)-2-butanone (39.7 parts) and 4-nitrobenzaldehyde (30.2 parts) are combined in toluene (300 parts) containing p-toluenesulfonic acid, (p-TSA), (1.0 part) and the mixture held under reflux until a theoretical amount of water is removed by a Dean-Stark moisture trap. The solution is concentrated in vacuo and the residue washed once with dilute sodium bicarbonate solution. The product is recrystallized from ethyl acetate-heptane mixed solvent to give colorless needles, m.p. 101-102.5° C. Proton NMR and combustion analysis are consistent with those values predicted for the desired product. Combustion Analysis for C13H15NO5 --Calculated: C, 58.9%; H, 5.7%; N, 5.3%. Found: C, 59.0%; H, 5.8%; N, 5.4%.

reactant | 3,3-bis(Hydroxymethyl)-2-butanone | OCC(C(C)=O)(C)CO | C6H12O3
reactant | 4-nitrobenzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-ACETYL-5-METHYL-2-(4-NITROPHENYL)-1,3-DIOXANE | C(C)(=O)C1(COC(OC1)C1=CC=C(C=C1)[N+](=O)[O-])C | C13H15NO5
